US08071625B2
To a solution of 3-(2-chlorobenzyl)-1,1-bis(2-hydroxyethyl)urea (2.3 g, 8.46 mmol), in THF were added DMAP and 4-ethylphenylisocyanate (1.24 g, 8.46 mmol). The reaction mixture was stirred for 1 h and concentrated. The resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O to give 2-(3-(2-chlorobenzyl)-1-(2-hydroxyethyl)ureido)ethyl 4-ethylphenylcarbamate (1.7 g, 48%). LRMS (M+H+) m/z 420.1.

reactant | 3-(2-chlorobenzyl)-1,1-bis(2-hydroxyethyl)urea | 8.46 mmol, 2.3 g | ClC1=C(CNC(N(CCO)CCO)=O)C=CC=C1 | C12H17ClN2O3
reactant | 4-ethylphenylisocyanate | 8.46 mmol, 1.24 g | C(C)C1=CC=C(C=C1)N=C=O | C9H9NO
solvent | THF | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(3-(2-chlorobenzyl)-1-(2-hydroxyethyl)ureido)ethyl 4-ethylphenylcarbamate | 1.7 g, 48% | C(C)C1=CC=C(C=C1)NC(OCCN(C(=O)NCC1=C(C=CC=C1)Cl)CCO)=O | C21H26ClN3O4
